US06710055B2
b) 1-Methyl-2-[N-(4-amidinophenyl)aminomethyl]benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-ethoxycarbonylpropyl)amide dihydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)aminomethyl]benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-tert-butyloxycarbonylpropyl)amide and ethanolic hydrochloric acid, ethanol, and ammonium carbonate. Yield: 68% of theory, C29H32N6O3 (512.6); Rf value: 0.12 (silica gel; dichloromethane/ethanol=4:1); EKA mass spectrum: (M+H)+=513; (M+H+Na)++=268.

reactant | 1-methyl-2-[N-(4-cyanophenyl)aminomethyl]benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-tert-butyloxycarbonylpropyl)amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCCC(=O)OC(C)(C)C | C31H33N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[N-(4-amidinophenyl)aminomethyl]benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-ethoxycarbonylpropyl)amide dihydrochloride | Yield: 68% | Cl.Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCCC(=O)OCC | InChI=1S/C29H32N6O3.2ClH/c1-3-38-27(36)10-7-17-35(23-8-5-4-6-9-23)29(37)21-13-16-25-24(18-21)33-26(34(25)2)19-32-22-14-11-20(12-15-22)28(30)31;;/h4-6,8-9,11-16,18,32H,3,7,10,17,19H2,1-2H3,(H3,30,31);2*1H
